US05468641
A slurry of 5 g of 4-nitrophenethyl alcohol, 0.58 g of 10% Pd on carbon in 50 mL of absolute ethanol was shaken overnight under 50 psi of H2. The mixture was filtered and concentrated to yield 3.6 g of 4-(2-hydroxyethyl) aniline, mp 101°-102° C.

reactant | 4-nitrophenethyl alcohol | 5 g | [N+](=O)([O-])C1=CC=C(CCO)C=C1 | C8H9NO3
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 0.58 g | [Pd] | Pd
product | 4-(2-hydroxyethyl) aniline | 3.6 g | OCCC1=CC=C(N)C=C1 | C8H11NO
